US08981084B2
A mixture of 5-cyano-2-methylpyridine (400 mg, 3.38 mmol) and iodine (0.8 g, 3.15 mmol) in DMSO (2 mL) was heated to 150° C. under nitrogen for 20 min. The reaction mixture was cooled to room temperature and quenched with 10% aqueous NaHCO3 solution. The organic product was extracted with EtOAc and the combined extracts were dried over anhydrous sodium sulfate, and concentrated under reduced pressure to get the crude 6-formylnicotinonitrile (400 mg), which was carried through without further purification. 6-Formylnicotinonitrile (400 mg, 3.03 mmol) was dissolved in 1,2-dichloroethane (5 mL) and cooled to 0° C. A solution of tert-butyl 2-methylpiperazine-1-carboxylate (606 mg, 3.03 mmol) in 1,2-dichloroethane (5 mL), followed by sodium triacetoxyborohydride (1.1 g, 5.4 mmol) were added and the reaction mixture was allowed to warm up to room temperature and further stirred for 8 h. The reaction mixture was quenched with 10% aqueous NaHCO3 solution and the product was extracted with EtOAc.

reactant | 5-cyano-2-methylpyridine | 3.38 mmol, 400 mg | C(#N)C=1C=CC(=NC1)C | C7H6N2
reactant | iodine | 3.15 mmol, 0.8 g | II | I2
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 6-formylnicotinonitrile | 400 mg | C(=O)C1=NC=C(C#N)C=C1 | C7H4N2O
